US06410732B2
A mixture of 10.00 g of acridan (55.2 mmol), 247.7 mg of Pd(OAc)2 (1.10 mmol), 178.6 mg of tri-t-butylphosphine (0.88 mmol), 7.95 g of sodium t-butoxide (82.7 mmol), and 15.61 g of 9-bromoanthracene (60.7 mmol) in 100 mL of dry toluene was allowed to stir under inert atmosphere for 1 h. An additional 200 mL of toluene was added to the mixture and stirring was continued at room temperature for 30 min. The reaction mixture was poured into a mixture of 600 mL of CH2Cl2 and 100 g of silica gel. After stirring 15 min, the mixture was filtered, and the solid material was washed with an acditional 600 mL of CH2Cl2. The filtrate was concentrated in vacuo to afford a thick liquid, which was treated with 500 mL of hexanes. After stirring 15 min, the precipitate was collected by filtration, washed with 500 mL of hexanes, and dried. The solid was then triturated in 500 mL of hexanes for 1 h, filtered and dried to afford 14.39 g of N-anthracenylacridan by 1H-NMR analysis. The mother liquor was concentrated to a yellow solid which was trituratec in 300 mL of hexanes for 15 min. The precipitate was collected by filtration, washed with 200 mL of hexanes and dried to afford 5.40 g of solid. 1H-NMR analysis showed the second crop of product was slightly less pure than the first. The two lots were combined to afford 19.79 g of the N-anthracenylacridan (100%).

reactant | acridan | 55.2 mmol, 10.00 g | C1=CC=CC=2NC3=CC=CC=C3CC12 | C13H11N
reactant | sodium t-butoxide | 82.7 mmol, 7.95 g | CC(C)([O-])C.[Na+]
reactant | 9-bromoanthracene | 60.7 mmol, 15.61 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 1.10 mmol, 247.7 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | tri-t-butylphosphine | 0.88 mmol, 178.6 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | N-anthracenylacridan | 14.39 g | C1(=CC=CC2=CC3=CC=CC=C3C=C12)N1C=2C=CC=CC2CC2=CC=CC=C12 | C27H19N
